US06291619B1
At room temperature, 10.85 g (20 mmol) of bis[4-(3,4-dicarboxyphenoxy)phenyl]sulfonic acid dianhydride (SOPOP) was added to a solution of 4.966 g (20 mmol) of bis(4-aminophenyl) sulfone (DDSO) in 68 ml of NMP. The resulting mixture was stirred at room temperature for 10 hours. The reaction mixture was dropwise added to 1.5 liters of water to obtain a polyamic acid (SOPOP/DDSO) as a solid product in a yield of 14.2 g.

reactant | bis(4-aminophenyl) sulfone | 20 mmol, 4.966 g | NC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)N | C12H12N2O2S
reactant | water | 1.5 liters | O | H2O
solvent | NMP | 68 ml | CN1CCCC1=O | C5H9NO
product | DDSO | C1=CC(=CC=C1N)S(=O)C2=CC=C(C=C2)N | C12H12N2OS
